US09353107B2
Step-iii: 6-cyclopropylpyridin-2-amine
To a solution of N-(6-cyclopropylpyridin-2-yl)pivalamide (4.25 gm, 19.49 mmol) in dioxane (34 ml) was added 9N HCl (34 ml). The mixture was stirred for 18 hours at 90° C. After cooling to 25° C., the pH of the reaction was adjusted with to achieve pH-9. The solution was diluted with ethyl acetate (200 ml) quantity and washed with saturated sodium bicarbonate. Next, the organic portion was dried over sodium sulfate and concentrated to get 2 gm (77.5% yield) clear oil.

reactant | N-(6-cyclopropylpyridin-2-yl)pivalamide | 19.49 mmol, 4.25 gm | C1(CC1)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C13H18N2O
reactant | HCl | 9N, 34 ml | Cl | ClH
solvent | dioxane | 34 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-cyclopropylpyridin-2-amine | 2 gm, 77.5% yield | C1(CC1)C1=CC=CC(=N1)N | C8H10N2
